US05691340
1-(2-PHENOXY-2-METHYLPROPIONYL)-4-BENZYLPIPERAZINE
A solution of 0.01 mol of 2-phenoxyisobutyric acid chloride (obtained by reaction of thionyl chloride with 2-phenoxyisobutyric acid) in 100 ml of methylene chloride is introduced into an Erlenmeyer flask containing a solution of 0.01 mol of 1-benzylpiperazine in 100 ml of methylene chloride. The mixture is stirred for 5 hours at room temperature, filtered and evaporated to dryness. The residue is taken up in water, basified and extracted with chloroform. The organic phases are combined, dried and evaporated.

reactant | 2-phenoxyisobutyric acid chloride | 0.01 mol | O(C1=CC=CC=C1)C(C(=O)Cl)(C)C | C10H11ClO2
reactant | 1-benzylpiperazine | 0.01 mol | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-PHENOXY-2-METHYLPROPIONYL)-4-BENZYLPIPERAZINE | O(C1=CC=CC=C1)C(C(=O)N1CCN(CC1)CC1=CC=CC=C1)(C)C | C21H26N2O2
